Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1][C:2]#[C:3][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:4]>>[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.0135238329
[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],-4.62985638617
[H:1][O:2][C@:3]([H:4])([C:5]#[C:6][H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:8]>>[H:1][O:2][C@@:3]([H:4])([C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.02136990807
[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2].[O:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],2.86950691452
[C:15]([H:16])([H:17])[H:18].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-3.88842975227
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11].[H:1][C:2][H:3],5.40692694046
[C:1]#[C:2].[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[O:9][H:10]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[O:9][H:10],-6.935241501010001
[H:1][C:2]=[C:3]([H:4])[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[H:1][C:2]=[C:3]([H:4])[C:5][O:6][C:7][H:8],7.980009892919999
[C:2]([O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1]>>[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.63719280764
[C:1][C:2][O:3].[C:4][H:5]>>[C:1]#[C:2][O:3][C:4][H:5],-2.7990490727
[H:1][O:2][C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])=[C:8]=[C:10]([H:11])[H:12].[H:9],3.2638650785100003
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:10][C:11]([H:12])([H:13])[H:14].[H:3],5.56285270288
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[C:10]([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([H:8])[H:9],1.92463432
[O:1]=[C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10]>>[H:4].[O:1]=[C:2]=[C:3]/[C:5]([H:6])=[C:7](\[H:8])[O:9][H:10],3.87888859883
[H:1][C:2]#[C:3][C:4]#[C:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:2]#[C:3][C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][C:5]#[C:4],7.303883834660001
[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],2.15156618857
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:1].[C:2]([H:3])([H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10],3.84952074883
[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.52852973112
[O:1][C:2]#[C:3][C:4][C:5]([H:6])([H:7])[H:8]>>[C:3]#[C:4][C:5]([H:6])([H:7])[H:8].[O:1]=[C:2],2.51898671598
[H:1][O:2][C:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[O:9][H:10]>>[C:4]([H:5])#[C:6][C:7]([H:8])[O:9][H:10].[H:1][O:2][C:3],2.96033028334
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]([H:3])[C:4]#[C:5][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:6],4.17553273166
[O:1]=[C:2]=[C:3]([H:4])[C:7]([H:8])([H:9])[H:10].[O:5][H:6]>>[O:1]=[C:2][C@@:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[H:10],-2.95058380217
[H:1][C:2]([H:3])[C@@:4]12[O:5][C:6]1[C:7]2[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11],0.701395893459
[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])[H:7])[C:9]([H:10])([H:11])[H:12].[H:8],3.97695352682
[H:1][O:2][C@:3]12[O:4][C@:5]1([H:6])[C:7]2[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2]/[C:3]=[C:7](/[C:5](=[O:4])[H:6])[C:8]([H:9])([H:10])[H:11],-0.145463726181
[C:1]#[C:2][C:3]([C:4][O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]([C:2]#[C:4][O:5][H:6])([H:8])([H:9])[H:10].[C:3]#[C:7],3.83405533302
[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.26399994392
[C:6]([H:7])([H:8])[O:9][H:10].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][H:10],-3.57507663448
[H:1][O:2][C@@:3]1([H:4])[O:5][C:6]1[H:7]>>[H:1][O:2][C:3]([H:4])[O:5][C:6][H:7],1.94347137992
[C:8]([H:9])[H:10].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[H:7]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[H:10],-5.01929638712
